US04281000
7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine pyridine-1-oxide
A mixture of 1.96 g. of 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine, 25 ml. of glacial acetic acid and 2 ml. of 30% hydrogen peroxide is heated on a steam bath for 2 hours. The solvent is removed and the residue crystallized from ethanol to give 0.85 g. of the product of the example, m.p. 223°-226° C.

reactant | 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2 | C11H8N4
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine pyridine-1-oxide | [N+]1(=CC=CC=C1)[O-].N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2 | InChI=1S/C11H8N4.C5H5NO/c1-2-9(8-12-5-1)10-3-6-13-11-4-7-14-15(10)11;7-6-4-2-1-3-5-6/h1-8H;1-5H
